US06949542B2
8-Chloro-7-methyl-4-[3-(6-methylamino-pyrimidin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester (Example J22) (128 mg, 0.5 mmol) and 3-[3-(6-methylamino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K54) (180 mg, 0.55 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (132 mg).

reactant | (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 128 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)N)=O | C12H17ClN2O2
reactant | 3-[3-(6-methylamino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.55 mmol, 180 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC=NC(=C1)NC)=O | C18H21N3O3
product | 8-Chloro-7-methyl-4-[3-(6-methylamino-pyrimidin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=NC(=C2)NC)=O)C1)C | C21H18ClN5O
